US08049016B2
Synthesis of 2-(1-(cyclopropylmethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid
Following the procedure as described in Preparation 14, making variations as required to replace ethyl 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate with ethyl 2-(1-(cyclopropylmethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylate, the title compound was obtained as a white solid in 92% yield: 1H NMR (300 MHz, DMSO-d6) δ13.39 (br s, 1H), 8.72 (s, 1H), 3.63 (d, J=7.1 Hz, 2H), 2.57 (s, 3H), 1.19-1.04 (m, 1H), 0.53-0.42 (m, 2H), 0.36-0.27 (m, 2H); MS (ES−) m/z 279.0 (M−1).

reactant | ethyl 2-(3-((2,2-difluorocyclopropyl)methyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylate | FC1(C(C1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)OCC)=O)F | C14H17F2N3O3S
reactant | ethyl 2-(1-(cyclopropylmethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylate | C1(CC1)CN1N=CN(C1=O)C=1SC(=C(N1)C)C(=O)OCC | C13H16N4O3S
product | 2-(1-(cyclopropylmethyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methylthiazole-5-carboxylic acid | 92% yield | C1(CC1)CN1N=CN(C1=O)C=1SC(=C(N1)C)C(=O)O | C11H12N4O3S
